US06455550B1
Preparation of 4-Trifluoromethyl-5-pyrimidine Carboxylic Acid
A solution of 2-chloro4-trifluoromethyl-5-pyrimidine carboxylic acid benzyl ester in cyclohexene (3 mL, 30 mmole) and ethanol (9 mL) was treated with 10% palladium on carbon and the resulting mixture was heated to reflux for 1 h. The mixture was cooled to room temperature and filtered through a pad of Celite and concentrated to give a quantitative yield of a gummy, off-white solid. LR ES MS (C6H3F3N2O2): 191 (M−H).

reactant | 2-chloro4-trifluoromethyl-5-pyrimidine carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C13H8ClF3N2O2
reactant | cyclohexene | 30 mmole, 3 mL | C1=CCCCC1 | C6H10
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-Trifluoromethyl-5-pyrimidine Carboxylic Acid | quantitative yield | FC(C1=NC=NC=C1C(=O)O)(F)F | C6H3F3N2O2
